US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.54 g) was suspended in toluene (22 ml), 2-bromo-2′-methylacetophenone (1.05 g), 1N aqueous sodium hydroxide (11 ml) and tetra n-butylammonium bromide (25 mg) were added, and the mixture was stirred for 4 hours at room temperature. The reaction mixture was acidified with 1N hydrochloric acid, extracted with methylene chloride. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(chloroform:ethyl acetate=10:1), to thereby obtain 2.26 g of the titled compound (Yield: 100%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.54 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C=C(C)C)=O)NC(=O)OC(C)(C)C | C20H27N3O4
reactant | 2-bromo-2′-methylacetophenone | 1.05 g | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
reactant | sodium hydroxide | 1N, 11 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra n-butylammonium bromide | 25 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.26 g, Yield: 100% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C=C(C)C)=O)NC(=O)OC(C)(C)C)=O)C | C29H35N3O5
